US09145392B2
5-Cyclopropyl-6-(4-(1-(2-(dimethylamino)ethyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidin-4-amine (“91”)
In a microwave vial containing 5-bromo-6-{4-[1-(2-dimethylamino-ethyl)-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine (70.00 mg; 0.13 mmol; 1.00 eq.) in Toluene (3.50 ml) and water (0.35 ml) was added 2-cyclopropyl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (0.09 ml; 0.50 mmol; 4.00 eq.), Palladium acetate (4.24 mg; 0.02 mmol; 0.15 eq.), Tricyclohexyl-phosphane (10.58 mg; 0.04 mmol; 0.30 eq.) and Potassium phosphonate (112.16 mg; 0.53 mmol; 4.20 eq.). The mixture was stirred at 100° C. for 5 h before the reaction mixture was filtered, concentrated and purified via waters pre-HPLC. LC-MS: (M+1=518, obsd.=518).

reactant | 5-bromo-6-{4-[1-(2-dimethylamino-ethyl)-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine | 0.13 mmol, 70.00 mg, 1.00 eq. | BrC=1C(=NC=NC1N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCN(C)C)N | C23H26BrF4N7
reactant | 2-cyclopropyl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.50 mmol, 0.09 ml, 4.00 eq. | C1(CC1)B1OC(C(O1)(C)C)(C)C | C9H17BO2
reactant | Tricyclohexyl-phosphane | 0.04 mmol, 10.58 mg, 0.30 eq. | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | Potassium phosphonate | 0.53 mmol, 112.16 mg, 4.20 eq. | P([O-])([O-])=O.[K+].[K+]
solvent | Toluene | 3.50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.35 ml | O | H2O
catalyst | Palladium acetate | 0.02 mmol, 4.24 mg, 0.15 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-Cyclopropyl-6-(4-(1-(2-(dimethylamino)ethyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidin-4-amine | C1(CC1)C=1C(=NC=NC1N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCN(C)C)N | C26H31F4N7
